US08283354B2
To (R)-2-[4-(3-amino-pyrrolidin-1-yl)-7-methyl-quinazolin-2-yl]-phenol (71 mg, 0.22 mmol) was added 890 μL of CH2Cl2. To this solution was added sequentially triethylamine (47 μL, 0.34 mmol) and 5-oxo-pyrrolidine-2-carboxylic acid (34.8 mg, 0.27 mmol) and BOP (119 mg, 0.27 mmol). The reaction mixture was stirred at room temperature for 2 h and diluted with water and CH2Cl2 (10 mL). The organic layer was separated and dried over Na2SO4, and the solvent was removed under reduced pressure to give (R)-5-oxo-pyrrolidine-2-carboxylic acid {1-[2-(2-hydroxy-phenyl)-7-methyl-quinazolin-4-yl]-pyrrolidin-3-yl}-amide. LC/MS: m/z 432.5 (M+H)+ at 2.24 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | (R)-2-[4-(3-amino-pyrrolidin-1-yl)-7-methyl-quinazolin-2-yl]-phenol | 0.22 mmol, 71 mg | N[C@H]1CN(CC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O | C19H20N4O
reactant | triethylamine | 0.34 mmol, 47 μL | C(C)N(CC)CC | C6H15N
reactant | 5-oxo-pyrrolidine-2-carboxylic acid | 0.27 mmol, 34.8 mg | O=C1CCC(N1)C(=O)O | C5H7NO3
reactant | BOP | 0.27 mmol, 119 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | water | O | H2O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 890 μL | C(Cl)Cl | CH2Cl2
product | (R)-5-oxo-pyrrolidine-2-carboxylic acid {1-[2-(2-hydroxy-phenyl)-7-methyl-quinazolin-4-yl]-pyrrolidin-3-yl}-amide | OC1=C(C=CC=C1)C1=NC2=CC(=CC=C2C(=N1)N1CC(CC1)NC(=O)[C@@H]1NC(CC1)=O)C | C24H25N5O3
